US04563455
A mixture of 2-chloromethyl-1-phenyl-1H-benzimidazole (4.8 g) and 1-acetyl-4-methylimidazole (2.4 g) in acetonitrile (25 ml) was refluxed for 48 hours. After removal of the solvent, the residue was pulverized in diethyl ether to give powder, which was taken up in 2.5 N sodium hydroxide (20 ml) and refluxed for 15 minutes. The resultant mixture was extracted twice with chloroform. The combined organic layer was extracted twice with 1 N hydrochloric acid. The combined aqueous layer was adjusted to pH 8.0 with aqueous sodium bicarbonate and extracted twice with chloroform. The combined extract was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The resultant residue was subjected to column chromatogeaphy on silica gel (60 g) eluting with a mixture of chloroform and methanol (50:1) to give an oily product. The oily product was triturated twice in diethyl ether and then in the mixture of diethyl ether and isopropyl alcohol (2:1) to give powder of 2-(5-methylimidazol-1-yl)methyl-1-phenyl- 1H-benzimidazole (0.65 g).

reactant | 2-chloromethyl-1-phenyl-1H-benzimidazole | 4.8 g | ClCC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C14H11ClN2
reactant | 1-acetyl-4-methylimidazole | 2.4 g | C(C)(=O)N1C=NC(=C1)C | C6H8N2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | sodium hydroxide | 2.5 N, 20 ml | [OH-].[Na+]
product | 2-(5-methylimidazol-1-yl)methyl-1-phenyl- 1H-benzimidazole | 0.65 g | CC1=CN=CN1CC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C18H16N4
